datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[N+]2(C[C:21]3=[CH:20][C:31]4=[C:32](O[C:22]3=[O:23])[CH:33]=[CH:34][CH:35]=[CH:36]4)CCN1CC2.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>ClC1=CC=C([S:61]([CH:10](Cl)[CH:20]2[C:21](C[N+]34CCN(CC3)CC4)=[C:22]([O-:23])O[C:32]3=[C:31]2[CH:36]=[CH:35][CH:34]=[CH:33]3)(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.C[S+:61](C)([CH2-:10])=[O:62]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][S+:61](C)(C)=[O:62])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:10](C)=[CH:11][CH2:62][Si:63](C)(C)C.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>C[C:10](C)([CH+:11][CH2:62][Si:63](C)(C)C)[C:20]1(C)CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"CC[C:12]1=[C:13](C)[NH:14][CH:10]=[C:11]1C.CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[C:12]1=[C:11](C)[CH:10]([CH:20]([C:21](=[C:22]([O-:23])[O:39]CC)[C:32](=[O:33])[O:34]CC)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[NH+:14]=[C:13]1C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[H:10][Si:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1.[Si+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"Cl[C:63]1=[CH:64][CH:83]=[CH:82][N+:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[CH:62]1.O=S(=O)(C(F)(F)F)[C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[C:33]([N+:22]([O-])=[O:23])=[CH:32]1>>O=S(=O)(C(F)(F)F)[C:21]12[CH:20]([CH:10]([N+:61]3=[CH:62][C:63](Cl)=[CH:64][CH:83]=[CH:82]3)[C:71](C3=CC=CC=C3)=[O:72])[C:41]3=[N+:42]([O-])O[N:35]=[C:34]3[C:33](=[CH:32]1)[N+:22]2([O-])[O-:23] 10=20;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH:11](C)[H:10]>>C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH:20]([H:10])[C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CCC(C)[Sn:63](C(C)CC)(C(C)CC)[CH:62](C)[CH+:11]C 10,11=10,20"
"CC[N+](CC)(CC)[BH2-:11][H:10].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[N+](CC)(CC)[BH2:11].C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC(C)[C@@H]1C[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10][C@@H]1C1=CC=CC=C1.CN1C=C[N+](C)=C1[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC(C)[C@@H]1C[N+:12]2=[C:11]([N:10]([CH:20]([CH:21]=[C:22](C3=[N+](C)C=CN3C)[O-:23])[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[C@@H]1C1=CC=CC=C1)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:20]1=[CH:21][C:22](=[O:23])CCC1.C[C:62]1=[CH:61][N:10]=[CH:11][NH:12]1>>C[C:20]1([N:10]2[CH:11]=[NH+:12][C:62](C)=[CH:61]2)CCC[C:22]([O-:23])=[CH:21]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)([CH:10](C)C2=CC=CC=C2)[O:12]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([CH:10](C)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)[O-:12].N#C/[CH:20]=[CH:21]/[C:22]#[N:23]>>CC[O:72][C:11]([CH:10]([CH:20](C#N)[CH:21]=[C:22]=[N-:23])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1(C)[O:64][C:13]([O-:14])=[C:12]([CH:11]([H:10])[C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CC1(C)[O:64][C:13](=[O:14])[C:12](=[CH:11][C:92]2=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]2)[C:73](=[O:74])[O:84]1.CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
